US08304371B2
5-(3-Bromo-4-fluorophenyl)-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrole (0.88 g) was dissolved in DMF (10 ml), and the solution was deaerated and then left to stand in an argon atmosphere. To the reaction mixture, Zn(CN)2 (0.45 g) and Pd(PPh3)4 (0.67 g) were added. The mixture was stirred for 4 hours at 90° C. The reaction mixture was returned to room temperature, and then ethyl acetate was added thereto. The reaction mixture was washed with a saturated aqueous solution of sodium hydrogen carbonate, and then dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, and the resulting mixture was purified by silica gel chromatography, to obtain 5-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]-2-fluorobenzonitrile (0.25 g) at a yield of 32%.

reactant | 5-(3-Bromo-4-fluorophenyl)-3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrole | 0.88 g | BrC=1C=C(C=CC1F)C=1CC(CN1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H10BrCl2F4N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.45 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.67 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]-2-fluorobenzonitrile | 0.25 g, yield of 32% | ClC=1C=C(C=C(C1)Cl)C1(CN=C(C1)C=1C=CC(=C(C#N)C1)F)C(F)(F)F | C18H10Cl2F4N2
